US06107036
4-Adamantylidene-2-(3'-methoxyphenyl)-5,5-dimethyl-oxazoline
122 mmol zinc-copper couple is added to a suspension of 35 mmol titanium trichloride in 60 ml absolute THF while stirring carefully. After heating for one hour under reflux a mixture of 11.4 mmol 2-(3'-methoxyphenyl)-5,5-dimethyl-oxazolin-4-one and 8.1 mmol adamantanone is added after cooling to room temperature. It is heated for 4 h to boiling at reflux. After cooling to room temperature it is poured onto 200 ml water. The mixture is shaken out twice with 200 ml ethyl acetate. The combined organic phases are washed once with water and separated. After drying over sodium sulfate it is filtered and the solvent is removed by distillation. The oily residue is separated by column chromatography (silica gel: ethyl acetate/petroleum ether 1:9).

reactant | 2-(3'-methoxyphenyl)-5,5-dimethyl-oxazolin-4-one | 11.4 mmol | COC=1C=C(C=CC1)C=1OC(C(N1)=O)(C)C | C12H13NO3
reactant | adamantanone | 8.1 mmol | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | water | 200 ml | O | H2O
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
catalyst | zinc-copper couple | 122 mmol | [Cu].[Zn]
catalyst | titanium trichloride | 35 mmol | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 4-Adamantylidene-2-(3'-methoxyphenyl)-5,5-dimethyl-oxazoline | C12C(C3CC(CC(C1)C3)C2)=C2N=C(OC2(C)C)C2=CC(=CC=C2)OC | C22H27NO2
